* c:\users\prana\esim-workspace\cockroft_walton_charge_pump\cockroft_walton_charge_pump.cir

.include NMOS-180nm.lib
m1 gnd gnd net-_c1-pad1_ gnd CMOSN W=100u L=100u M=1
m2 net-_c1-pad1_ net-_c1-pad1_ net-_c2-pad1_ gnd CMOSN W=100u L=100u M=1
m3 net-_c2-pad1_ net-_c2-pad1_ net-_c3-pad1_ gnd CMOSN W=100u L=100u M=1
m4 net-_c3-pad1_ net-_c3-pad1_ out gnd CMOSN W=100u L=100u M=1
c1  net-_c1-pad1_ in 1u
c2  net-_c2-pad1_ gnd 1u
c3  net-_c3-pad1_ net-_c1-pad1_ 1u
c4  out net-_c2-pad1_ 1u
* u1  in plot_v1
* u2  out plot_v1
v1  in gnd sine(0 12 5 0 0)
.tran 1e-03 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)  v(out)+20
.endc
.end
